US05021420
The experiment is carried out as in Example 1, starting with 2(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide(8.4 g), triethylamine (4.2 cc) and 4-(3-fluorophenyl)piperazine (5.3 g) in toluene (100 cc). The mixture is heated for 8 hours at boiling point, then cooled to a temperature of about 20° C. After purification by flash-chromatography on a silica column, under a current of argon at medium pressure (0.5-1.5 bar) with dichloromethane and then a mixture of dichloromethane and ethyl acetate (5-50 vol) as eluant, and recrystallization from boiling acetonitrile (20 cc), 2-(3-[4-(3-fluorophenyl)-1-piperazinyl]propyl}naphtho[1,8cd]isothiazole 1,1-dioxide (4.7 g) is obtained, m.p. 103° C.

reactant | 2(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 8.4 g | ClCCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C13H12ClNO2S
reactant | triethylamine | 4.2 cc | C(C)N(CC)CC | C6H15N
reactant | 4-(3-fluorophenyl)piperazine | 5.3 g | FC=1C=C(C=CC1)N1CCNCC1 | C10H13FN2
solvent | toluene | 100 cc | C1(=CC=CC=C1)C | C7H8
product | 2-(3-[4-(3-fluorophenyl)-1-piperazinyl]propyl}naphtho[1,8cd]isothiazole 1,1-dioxide | 4.7 g | FC=1C=C(C=CC1)N1CCN(CC1)CCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C23H24FN3O2S
